US04584295
An emulsion of 20.9 g (0.135 mol) of methyl 4-chloroacetoacetate and 23.5 g (0.189 mol) of O-ethylisourea hydrochloride is treated with a solution of 41.3 g (0.31 mol) of sodium hydroxide in 40 ml of water at -20° C. to -10° C. during 5 minutes while stirring well. After stirring at room temperature for 2 hours the resulting crystalline product is filtered off and dried. The crystals, m.p. 156°-158° C., are washed well with diethyl ether. There is obtained 2-ethoxy-4-chloromethyl-6-hydroxy-pyrimidine, m.p. 161°-163° C.

reactant | methyl 4-chloroacetoacetate | 0.135 mol, 20.9 g | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | O-ethylisourea hydrochloride | 0.189 mol, 23.5 g | Cl.C(C)OC(N)=N
reactant | sodium hydroxide | 0.31 mol, 41.3 g | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
product | 2-ethoxy-4-chloromethyl-6-hydroxy-pyrimidine | C(C)OC1=NC(=CC(=N1)CCl)O | C7H9ClN2O2
